### PR TITLE
feat(Algebra/WContractible): fill `Restriction` sorries

### PR DESCRIPTION
**Pull request by chrisflav**
Fills the sorries in
- `WContractification.RestrictClopen.map` (`commutes'`)
- `WContractification.Restriction.diag` (`map_id`, `map_comp`)
- `WContractification.Restriction.indZariski`
- `WContractification.Restriction.algebraMap_surjective`

and adds an `Algebra.IsStandardOpenImmersion A (RestrictClopen W)` instance.

The remaining `range_algebraMap_specComap` and `isClosedEmbedding_algebraMap_specComap`
sorries are left untouched.

Corresponds to blueprint `def:colim-open-closed-localizations` and the
ind-Zariski/surjectivity clauses of `thm:colim-open-closed-localizations-surj-ind-zariski`
(Stacks 097C).

### CODE REVIEW

File: Proetale/Algebra/WContractible.lean [hunk 1]
```diff
@@ -102,9 +113,42 @@ instance commRing : CommRing (Restriction T) :=
...
   inferInstanceAs <| Algebra A <| colimit (C := CommAlgCat A) (Restriction.diag T)
 
-instance indZariski : Algebra.IndZariski A (Restriction T) := sorry
-
-lemma algebraMap_surjective : Function.Surjective (algebraMap A (Restriction T)) := sorry
+private instance nonempty_index :
+    Nonempty {W : Clopens (PrimeSpectrum A) // ConnectedComponents.mk ⁻¹' T ≤ W} :=
+  ⟨⟨⊤, le_top⟩⟩
+
+private instance isCofiltered_index : CategoryTheory.IsCofiltered
```
Comment (chrisflav) [inline Proetale/Algebra/WContractible.lean]: The instances should not be `private`.

File: Proetale/Algebra/WContractible.lean [hunk 2]
```diff
@@ -102,9 +113,42 @@ instance commRing : CommRing (Restriction T) :=
...
+  have hpiece : Function.Surjective (algebraMap A (RestrictClopen j.val)) :=
+    IsLocalization.Away.algebraMap_surjective_of_isIdempotentElem
+      (isIdempotentElemEquivClopens.symm j.val).val
+      (isIdempotentElemEquivClopens.symm j.val).prop
+  obtain ⟨a, ha⟩ := hpiece y
+  refine ⟨a, ?_⟩
+  change (CategoryTheory.forget (CommAlgCat A)).map
+    (colimit.ι (Restriction.diag T) (Opposite.op j)) y = x at hy
+  rw [← ha] at hy
+  change algebraMap A (colimit (C := CommAlgCat A) (Restriction.diag T)) a = x
```
Comment (chrisflav) [inline Proetale/Algebra/WContractible.lean]: Rewrite with API lemmas instead of using `change`. If the lemmas are missing, add them.

**Review by chrisflav — COMMENTED** [review]
Merge latest master into this branch and also update the blueprint with missing leanok declarations.

**Comment by chrisflav** [comment]
orchestra address review

**Comment by chrisflav** [comment]
orchestra address review

**Comment by chrisflav** [comment]
orchestra address review: Merge latest master into this branch and also update the blueprint with missing leanok declarations for results added in this PR.

File: blueprint/src/chapters/topology.tex [hunk 3]
```diff
@@ -34,12 +34,16 @@ \section{Weakly étale morphisms of schemes}
...
+    \leanok
     \label{lemma:weakly-etale-hasringhomprop}
 \end{lemma}
 
 \begin{lemma}
     Etale morphisms are weakly étale.
     \uses{def:weakly-etale-morphism}
+    \lean{AlgebraicGeometry.etale_le_weaklyEtale}
+    \mathlibok
+    \leanok
```
Comment (chrisflav) [inline blueprint/src/chapters/topology.tex]: Remove these unrelated changes.

**Comment by chrisflav** [comment]
orchestra address review
